US09334267B2
Prop-1-en-2-yl (2-fluoro-4-methyl-5-(7-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl)phenyl)carbamate
Treat a cooled solution (0° C.) of 6-(5-amino-4-fluoro-2-methylphenyl)-N,7-dimethylpyrido[2,3-d]pyrimidin-2-amine (0.85 g, 2.86 mmol) in pyridine (10 mL) dropwise with isopropenyl chloroformate (0.281 ml, 2.57 mmol) and stir the mixture for 20 min. at 0° C. Concentrate the mixture to dryness, dissolve the residue in DCM, wash with brine, dry over Na2SO4 and concentrate to dryness to afford the title compound. Use it without purification (assuming 100% yield). MS (m/z): 382.1 (M+1).

reactant | 6-(5-amino-4-fluoro-2-methylphenyl)-N,7-dimethylpyrido[2,3-d]pyrimidin-2-amine | 2.86 mmol, 0.85 g | NC=1C(=CC(=C(C1)C1=CC2=C(N=C(N=C2)NC)N=C1C)C)F | C16H16FN5
reactant | isopropenyl chloroformate | 2.57 mmol, 0.281 ml | ClC(=O)OC(=C)C | C4H5ClO2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | Prop-1-en-2-yl (2-fluoro-4-methyl-5-(7-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl)phenyl)carbamate | 100% yield | FC1=C(C=C(C(=C1)C)C1=CC2=C(N=C(N=C2)NC)N=C1C)NC(OC(=C)C)=O | C20H20FN5O2
